US08957073B2
To a round bottomed flask was added 1-(3-(1-(quinolin-2-yl)azetidin-3-yl)pyrazin-2-yl)pyrrolidin-3-amine (0.0974 g, 0.281 mmol), pyridine (commercially available through Aldrich, 0.045 ml, 0.562 mmol), and 4-(pyrrolidin-1-yl)pyridine (PPY) (commercially available through Alfa Aesar, 0.042 g, 0.281 mmol) to stir at RT in DCM (0.937 ml). Methyl carbonochloridate (commercially available through Aldrich, 0.027 ml, 0.422 mmol) was added and allowed to stir overnight. The crude product was adsorbed onto a plug of silica gel and chromatographed through a Biotage 50 g SNAP HP-silica column, eluting with a gradient of 1% to 6% MeOH in CH2Cl2, to provide methyl (1-(3-(1-(quinolin-2-yl)azetidin-3-yl)pyrazin-2-yl)pyrrolidin-3-yl)carbamate.

reactant | 1-(3-(1-(quinolin-2-yl)azetidin-3-yl)pyrazin-2-yl)pyrrolidin-3-amine | 0.281 mmol, 0.0974 g | N1=C(C=CC2=CC=CC=C12)N1CC(C1)C=1C(=NC=CN1)N1CC(CC1)N | C20H22N6
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 4-(pyrrolidin-1-yl)pyridine | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
reactant | Methyl carbonochloridate | C(OC)(=O)Cl | C2H3ClO2
solvent | DCM | 0.937 ml | C(Cl)Cl | CH2Cl2
product | methyl (1-(3-(1-(quinolin-2-yl)azetidin-3-yl)pyrazin-2-yl)pyrrolidin-3-yl)carbamate | N1=C(C=CC2=CC=CC=C12)N1CC(C1)C=1C(=NC=CN1)N1CC(CC1)NC(OC)=O | C22H24N6O2
